US08470820B2
Step 1: 2-(4-Nitro-imidazol-1-yl)-pyridine
A suspension of 4-nitro-1H-imidazole (0.5 g, 4.4 mmol) in DMF (15 ml) was cooled to 0° C. and treated with sodium hydride (0.23 g, 5.3 mmol). Stirring was continued at 0° C. for 1 h and subsequently cooled to −30° C. A solution of N-fluoropyridinium triflate (0.55 g, 2.2 mmol) in DMF (10 ml) was added within 5 min. After warming-up to ambient temperature, the reaction mixture was stirred at that temperature overnight. The crude product was obtained after extraction with ethyl acetate (2×100 ml), washing of the combined organic phases with 10% aqueous potassium bisulphate solution, water and brine and finally drying and solvent evaporation. This off-white solid material (0.33 g, 39%) was used without any further purification for the next step. MS: M=191.3 (M+H)+

reactant | 4-nitro-1H-imidazole | 4.4 mmol, 0.5 g | [N+](=O)([O-])C=1N=CNC1 | C3H3N3O2
reactant | sodium hydride | 5.3 mmol, 0.23 g | [H-].[Na+]
reactant | N-fluoropyridinium triflate | 2.2 mmol, 0.55 g | [O-]S(=O)(=O)C(F)(F)F.F[N+]1=CC=CC=C1
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 2-(4-Nitro-imidazol-1-yl)-pyridine | [N+](=O)([O-])C=1N=CN(C1)C1=NC=CC=C1 | C8H6N4O2
